US08530490B2
Synthesis of N-(4-(methoxymethoxy)butyl)benzenesulfonamide
4-Aminobutanol (700 mg) was dissolved in THF (12.5 mL). To the solution, magnesium oxide (1.58 g), water (3.2 mL), and benzenesulfonyl chloride (1.15 mL) were added, and the mixture was stirred at room temperature for 2 hours. The precipitate was removed by filtration, and washed with chloroform (50 mL). Then, the combined filtrate was concentrated under reduced pressure. To the residue, water (20 mL) was added, and the resultant mixture was then extracted with ethyl acetate (20 mL). The organic layer was washed with brine (20 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (100% ethyl acetate). The obtained colorless oil (1.48 g) was dissolved in dichloromethane (7.5 mL). To the solution, N,N-diisopropylethylamine (3.43 mL) and chloromethyl methyl ether (1.0 mL) were added, and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was then purified by silica gel column chromatography (50% ethyl acetate/hexane) to obtain the title compound (1.36 g) as a colorless oil.

reactant | 4-Aminobutanol | 700 mg | NCCCCO | C4H11NO
reactant | magnesium oxide | 1.58 g | [O-2].[Mg+2]
reactant | water | 3.2 mL | O | H2O
reactant | benzenesulfonyl chloride | 1.15 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | THF | 12.5 mL | C1CCOC1 | C4H8O
product | N-(4-(methoxymethoxy)butyl)benzenesulfonamide | 1.36 g | COCOCCCCNS(=O)(=O)C1=CC=CC=C1 | C12H19NO4S
